US06787536B2
1-Iodomethylcyclohexanecarboxylic acid methyl ester
Prepared according to the method for the preparation of 4-iodomethyltetrahydropyran-4-carboxylic acid methyl ester, from cyclohexane-carboxylic acid methyl ester (10 ml), to give the title compound as a brown gum (20 g, 100%).

reactant | 4-iodomethyltetrahydropyran-4-carboxylic acid methyl ester | COC(=O)C1(CCOCC1)CI | C8H13IO3
reactant | cyclohexane-carboxylic acid methyl ester | 10 ml | COC(=O)C1CCCCC1 | C8H14O2
product | 1-Iodomethylcyclohexanecarboxylic acid methyl ester | 20 g, 100% | COC(=O)C1(CCCCC1)CI | C9H15IO2
